Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Right flank pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y.o. woman with HTN, HL, CAD, diabetes 
mellitus complicated by neuropathy who presents with R flank 
pain. The patient reports that for the past ___ months, the 
patient has been experiencing intermittent episodes of sharp 
pain on her lower back. She reports that the pain would 
occasionally radiate to her R flank and inner R thigh. She 
describes the pain as a sharp, shooting pain that is worsened by 
sitting down or lying flat. She is unable to identify any 
triggers for the pain. The patient denies any recent falls or 
injuries. The patient endorses decreased urinary output in the 
past two weeks that is associated with burning on urination. The 
patient denies any dyspepsia, diarrhea, or constipation.

Yesterday, the patient reports that the pain increased in 
severity and became an ___ sharp constant pain that did not 
radiate. She reports that Tylenol does not provide any relief. 
She reports that she was febrile to 102.9 and this was 
associated with nausea and poor appetite. The patient 
subsequently presented to the ED where her VS were 98 HR: 111 
BP: 153/73 Resp: 18 O(2)Sat: 99 % RA. Initial labs were notable 
for normal electrolytes, Lactate 3.4, Glucose 139, normal LFTs, 
and lipase. UA was notable for trace blood, 100 protein, but 
negative for bacteria, nitrites, or leukocyte esterase. An 
Abd/Pelvic CT was notable for layering sludge or small stones in 
the gall bladder, but unremarkable for cholecystitis, renal or 
ureteral stones, hydronephrosis, or perinephric abnormalities. 
The patient was given IV fluids, Morphine, and Toradol and 
transferred to the floor for further diagnostic workup and 
management. 

 
Past Medical History:
1. Diabetus mellitus 
2. Hypertension
3. Hypercholesterolemia
4. Coronary Artery Disease 
5. Asthma
6. S/p two C-sections
7. Abdominal cellulitis (over ___ years ago) s/p pannilectomy
8. Pulmonary infection (?PCP) at ___ ___ 
year ago) 

 
Social History:
___
Family History:
Breast and ovarian cancer, mother had diabetes  

 
Physical Exam:
Vitals: 98 98 ___ (119/50-143/65) ___ 93-99% RA
General- Resting in bed in pain. Appears short of breath.
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- Supple, no JVD, no LAD. Acanthosis nigricans on neck.  
Lungs- CTAB
CV- RRR, normal S1 + S2, no murmurs, rubs, gallops 
Back: No spinal tenderness. R>L CVA tenderness.  No focal 
tenderness on palpation of posterior hips bilaterally. 
Abdomen- Obese, no umbilicus. Scars under folds of skin at 
pubis. No rashes. Soft, non-distended. +Normactive BS. No focal 
tenderness, rebound tenderness, or guarding. Unable to assess 
hepatomegaly or splenomegaly. No masses. No suprapubic 
tenderness. No tenderness over RUQ on palpation with deep 
inspiration
GU- Exam deferred.   
Ext- Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema. Negative Psoas Sign. Negative Straight Leg Test.  
Neuro- CNs2-12 intact, motor function grossly normal   

 
Pertinent Results:
Admission Labs:
---------------
___ 01:05PM BLOOD WBC-8.8 RBC-5.15 Hgb-14.6 Hct-43.8 MCV-85 
MCH-28.4 MCHC-33.5 RDW-13.3 Plt ___
___ 01:05PM BLOOD Neuts-61.2 ___ Monos-4.9 Eos-6.2* 
Baso-0.5
___ 01:05PM BLOOD Plt ___
___ 01:05PM BLOOD Glucose-139* UreaN-13 Creat-0.8 Na-142 
K-4.4 Cl-105 HCO3-23 AnGap-18
___ 01:05PM BLOOD ALT-23 AST-23 LD(LDH)-224 AlkPhos-60 
TotBili-0.3
___ 01:05PM BLOOD Lipase-34
___ 01:05PM BLOOD Albumin-4.1
___ 01:12PM BLOOD Lactate-3.4*

Discharge Labs:
---------------
___ 06:55AM BLOOD WBC-8.4 RBC-4.61 Hgb-12.9 Hct-39.6 MCV-86 
MCH-28.0 MCHC-32.7 RDW-13.3 Plt ___
___ 06:55AM BLOOD Glucose-175* UreaN-13 Creat-0.7 Na-140 
K-4.6 Cl-106 HCO3-26 AnGap-13
___ 01:05PM BLOOD ALT-23 AST-23 LD(LDH)-224 AlkPhos-60 
TotBili-0.3
___ 06:55AM BLOOD Calcium-9.0 Phos-4.7* Mg-1.9
___ 01:05PM BLOOD Albumin-4.1
___ 01:38PM BLOOD Lactate-1.4

Imaging:
---------------

CT Urogram (ABD/PEL) W/O CONTR ___
IMPRESSION: 
1.  No evidence of renal or ureteral stones, hydronephrosis or 
perinephric 
abnormalities.   
2.  Tiny layering stones within the gallbladder with no evidence 
of 
cholecystitis. 

Microbiology:
---------------
___ URINE URINE CULTURE-FINAL NEGATIVE

 
Brief Hospital Course:
Ms. ___ is a ___ y.o. woman with HTN, HL, CAD, diabetes 
mellitus complicated by neuropathy who presents with R flank 
pain found to have elevated lactate concerning for renal colic 
vs nephrolithiasis.

# R Flank Pain: Musculoskeletal given time course (months), 
negative CT abd/pelvis, and improvement with tizanidine and 
toradol. Discharged with home ___ and lidocaine patch, written 
for ___.

#Diabetes Mellitus: Poorly controlled, complicated by 
neuropathy. On home Metformin, Victoza (Liraglutide), and Lantus 
50 units ___. Metformin was stopped in house due to lactic 
acidosis 3.1. ___ consulted, patient discharged off metformin 
with ___ followup in 3 days. 

TRANSITIONAL ISSUES:
- Metformin stopped, remains on liraglutide and Lantus 50U ___, 
patient aware of necessity of scheduled ___ follow up in 3 
days.
- Home ___ for muscle strain, written for ___ given physical 
therapy recommendation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 1000 mg PO BID 
2. Lisinopril 40 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Amlodipine 10 mg PO DAILY 
6. Gabapentin 600 mg PO TID 
7. Pravastatin 20 mg PO DAILY 
8. Zolpidem Tartrate 10 mg PO HS 
9. QUEtiapine Fumarate 25 mg PO QAM 
10. Lantus *NF* (insulin glargine) 50 units Subcutaneous HS 
11. Victoza 2-Pak *NF* (liraglutide) 18 units Subcutaneous QAM 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Gabapentin 600 mg PO TID 
5. Lisinopril 40 mg PO DAILY 
6. Pravastatin 20 mg PO DAILY 
7. QUEtiapine Fumarate 25 mg PO QAM 
8. Zolpidem Tartrate 10 mg PO HS 
9. Tizanidine 2 mg PO BID 
RX *tizanidine 2 mg 1 tablet(s) by mouth twice daily as needed 
for back pain Disp #*6 Tablet Refills:*0
10. Lidocaine 5% Patch 1 PTCH TD DAILY 
RX *lidocaine [Lidoderm] 5 % (700 mg/patch) apply to lower back 
once daily for 12 hours and then remove Disp #*4 Transdermal 
Patch Refills:*0
11. Lantus *NF* (insulin glargine) 50 units Subcutaneous HS 
12. Victoza 2-Pak *NF* (liraglutide) 18 units Subcutaneous QAM 
13. Walker
V724.2 Lumbago
Please obtain a walker.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Muscle strain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted with back pain. There was some concern that 
this may be related to your kidney, but imaging and lab studies 
confirmed that it is a muscle strain. You worked with physical 
therapy and were given a lidocaine patch and a medicine called 
tizanidine to control the pain. In addition, physical therapists 
will visit you at home to work through some exercises. Finally, 
___ ointment can help with the pain, and you can find this 
over the counter at a pharmacy. 

It was noticed that your metformin is causing a bad reaction, 
and that you can no longer take it. You have been scheduled to 
see the diabetes specialists at the ___ in 3 days. The 
details are described below. It is very important that you go to 
that appointment. 

 
Followup Instructions:
___